US05075471
Preparation of N'-t-butyl-N-benzoylhydrazine
To a stirred suspension of t-butylhydrazine hydrochloride (1.24 g, 10 mmol) in toluene (30 ml) at room temperature was added dropwise a 50% aqueous solution of sodium hydroxide (0.8 g, 10 mmole). After 15 min., the reaction mixture was cooled to 5° C. and a solution of benzoyl chloride (1.42 g, 10 mmol) in toluene (5 ml) and a solution of 50% aqueous sodium hydroxide (0.8 g, 10 mmol) were added dropwise simultaneously from separate addition funnels while maintaining the temperature at or below 10°. Following the addition, the reaction mixture was warmed to room temperature and stirred for 1 hr. The reaction mixture was diluted with toluene washed with water. The organic layer was separated, dried over anhydrous magnesium sulfate, and the solvent removed under vacuum to afford a yellow oil which slowly solidified on standing. The product was recrystallized from ethyl ether:hexane to afford white crystals.

reactant | t-butylhydrazine hydrochloride | 10 mmol, 1.24 g | Cl.C(C)(C)(C)NN
reactant | sodium hydroxide | 10 mmole, 0.8 g | [OH-].[Na+]
reactant | benzoyl chloride | 10 mmol, 1.42 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydroxide | 10 mmol, 0.8 g | [OH-].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | N'-t-butyl-N-benzoylhydrazine | C(C)(C)(C)NNC(C1=CC=CC=C1)=O | C11H16N2O
